US08895544B2
5-Ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol dihydrochloric acid salt
To a solution of 4,4-diethoxy-3-{[6-[2-ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboximidoyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester (Preparation 10, 46.65 g, 55.27 mmol) in ethanol (200 mL) was added concentrated hydrochloric acid (12M, 100 mL, 1.2 mol) and the resulting solution was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo and azeotroped with toluene (100 mL) and DCM (2×100 mL). The resulting gum was dried under vacuum for 3 hours. The crude material was triturated in MeCN (300 mL) and the resulting solid was collected by filtration. The solid was dissolved in ethanol (250 mL) and treated with concentrated hydrochloric acid (12M, 77.2 mL, 927 mmol). The resulting solution was heated at 40° C. for 18 hours, then at 50° C. for 2 hours. The solvents were removed in vacuo and the resulting gum was triturated in MeCN (200 mL). The solid which formed was collected by filtration, washed with further MeCN (200 mL) and dried under vacuum to give the title compound as a beige solid (23.5 g, 88% yield, dihydrochloride salt).

reactant | 4,4-diethoxy-3-{[6-[2-ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboximidoyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 55.27 mmol, 46.65 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)(OCC)OCC)NC(=N)C1=NN(C2=CC(=CC=C12)C1=C(C=C(C(=C1)F)OCOCC[Si](C)(C)C)CC)C1OCCCC1 | C41H62FN5O7Si
reactant | hydrochloric acid | 1.2 mol, 12M, 100 mL | Cl | ClH
reactant | hydrochloric acid | 927 mmol, 12M, 77.2 mL | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-Ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol dihydrochloric acid salt | 23.5 g, 88% yield | Cl.Cl.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1 | InChI=1S/C21H20FN5O.2ClH/c1-2-11-8-19(28)15(22)9-14(11)12-3-4-13-17(7-12)26-27-20(13)21-24-16-5-6-23-10-18(16)25-21;;/h3-4,7-9,23,28H,2,5-6,10H2,1H3,(H,24,25)(H,26,27);2*1H
